US07148236B2
(i) 4-mercaptobenzamide
To a stirred solution of 4-mercaptobenzoic acid (1.00 g, 6.49 mmol) and N-methylmorpholine (0.78 ml, 7.14 mmol) in ethyleneglycol dimethylether (20 ml) was added iso-butylchloroformate (0.92 ml, 7.14 mmol). The reaction was stirred at ambient temperature overnight and filtered to a clear pale yellow solution which was treated with excess ammonia as a solution in dioxane (0.5M, ˜15 ml). This solution was stirred for two hours at room temperature, and concentrated in vacuo to a white solid. The solid was dissolved in a mixture of H2O (10 ml) and CHCl3 (30 ml), the aqueous was basified using 2N NaOH(aq) and the organic layer separated and dried (MgSO4) before being concentrated in vacuo to a white solid (679 mg). The solid was treated with a solution of sodium methoxide in methanol (10 ml) and when TLC showed no more starting material, the reaction was acidified using 2N HCl(aq) to pH=4, then concentrated in vacuo. The residue was treated with water and extracted with CHCl3, then concentrated in vacuo to give the title compound as an off white solid (376 mg).

reactant | 4-mercaptobenzoic acid | 6.49 mmol, 1.00 g | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | N-methylmorpholine | 7.14 mmol, 0.78 ml | CN1CCOCC1 | C5H11NO
reactant | iso-butylchloroformate | 7.14 mmol, 0.92 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | ethyleneglycol dimethylether | 20 ml | COCCOC | C4H10O2
product | 4-mercaptobenzamide | SC1=CC=C(C(=O)N)C=C1 | C7H7NOS
